US04327114
About 7 gm of isobutylene were introduced into a refluxing solution of 11.3 gm of 1,8-dihydroxy-9-(10H)anthracenone in 100 ml of chloroform and 6 ml of sulfuric acid. The resulting mixture was poured into water, and the organic phase was separated and worked up as described in Example 2. 3.9 gm of 2-tert. butyl-1,8-dihydroxy-9-(10H)anthracenone, m.p. 126°-127° C., corresponding to 27% of theory, were obtained.

reactant | isobutylene | 7 gm | CC(C)=C | C4H8
reactant | 1,8-dihydroxy-9-(10H)anthracenone | 11.3 gm | OC1=CC=CC=2CC3=CC=CC(=C3C(C12)=O)O | C14H10O3
reactant | water | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
product | 2-tert. butyl-1,8-dihydroxy-9-(10H)anthracenone | 3.9 gm | C(C)(C)(C)C1=C(C=2C(C3=C(C=CC=C3CC2C=C1)O)=O)O | C18H18O3
